US07585886B2
A 0.06 ml portion of pyridine and 103 mg of methyl 4-[(chlorocarbonyl)oxy]benzoate (mfd. by Fluka) were added in that order to a THF (5.0 ml) solution of 173 mg of tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate and stirred for 1 week. Thereafter, its work-up and purification were carried out in the standard method to obtain 4-(methoxycarbonyl)phenyl (3R,4S)-3-({(tert-butoxycarbonyl) [(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidine-1-carboxylate as a crude product. FP: 609.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | methyl 4-[(chlorocarbonyl)oxy]benzoate | 103 mg | ClC(=O)OC1=CC=C(C(=O)OC)C=C1 | C9H7ClO4
reactant | tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate | 173 mg | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)C[C@H]1CNC[C@@H]1C1=CC=CC=C1 | C28H34N2O2
solvent | THF | 5.0 ml | C1CCOC1 | C4H8O
product | 4-(methoxycarbonyl)phenyl (3R,4S)-3-({(tert-butoxycarbonyl) [(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidine-1-carboxylate | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)OC1=CC=C(C=C1)C(=O)OC | C37H40N2O6
